US07119102B2
2-Amino-1-(2-methylsulfanyl-pyrimidin-4-yl)-ethanol dihydrochloride salt (0.339 g, 1.83 mmol) was dissolved into a minimum of MeOH and diluted with 10 mL of THF. To this was added t-butyl-4-oxo-1-piperidinecarboxylate (0.478 g, 2.40 mmol), AcOH (0.458 mL, 8.00 mmol) and sodium triacetoxyborohydride (1.696 g, 8.00 mmol) and the reaction was stirred overnight. LC-MS analysis indicated complete consumption of the starting material. The mixture was concentrated on a rotary evaporator, the residue dissolved in CH2Cl2 and applied to a SiO2 column and purified (0–10% MeOH/CH2Cl2) to give 511.0 mg, 57.8% yield of 4-[2-hydroxy-2-(2-methylsulfanyl-pyrimidin-4-yl)-ethylamino]-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 2-Amino-1-(2-methylsulfanyl-pyrimidin-4-yl)-ethanol dihydrochloride salt | 1.83 mmol, 0.339 g | Cl.Cl.NCC(O)C1=NC(=NC=C1)SC
reactant | t-butyl-4-oxo-1-piperidinecarboxylate | 2.40 mmol, 0.478 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | AcOH | 8.00 mmol, 0.458 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 8.00 mmol, 1.696 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | 4-[2-hydroxy-2-(2-methylsulfanyl-pyrimidin-4-yl)-ethylamino]-piperidine-1-carboxylic acid tert-butyl ester | 511.0 mg, 57.8% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC(C1=NC(=NC=C1)SC)O | C17H28N4O3S
